US08957205B2
1-[[(3-Ethoxy-2-thienyl)carbonyl]amino]cyclohexanecarboxylic acid
633 mg (3.3 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added to a solution of 581 mg (3 mmol) of 1-aminocyclohexanecarboxylic acid methyl ester hydrochloride, 482 mg (3.1 mmol) of 1-hydroxybenzotriazole, 517 mg (3 mmol) of 3-ethoxy-2-thiophenecarboxylic acid and 1.16 g (9 mmol) of diisopropylethylamine in 10 ml of methylene chloride under ice-cooling. After the solution was stirred at room temperature overnight, the reaction solution was concentrated under reduced pressure, ethyl acetate was added thereto, and the mixture was washed with water, a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution and then saturated brine, followed by drying with anhydrous sodium sulfate. After the solvent was distilled off under reduced pressure, diisopropyl ether was added to the residue, followed by stirring overnight and the crystal was collected by filtration. Subsequently, the obtained crystal was dissolved in 3 ml of tetrahydrofuran solution, 2.8 ml of 2N—NaOH aqueous solution was added thereto, and the mixture was refluxed under heating for 3 hours. Ether was added to the reaction solution and the aqueous layer was separated. After the separated aqueous layer was neutralized by concentrated hydrochloric acid, the layer was extracted with ethyl acetate. After the obtained organic layer was washed with saturated brine, it was dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 656 mg (73%) of the title compound.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.3 mmol, 633 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-aminocyclohexanecarboxylic acid methyl ester hydrochloride | 3 mmol, 581 mg | Cl.COC(=O)C1(CCCCC1)N
reactant | 1-hydroxybenzotriazole | 3.1 mmol, 482 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-ethoxy-2-thiophenecarboxylic acid | 3 mmol, 517 mg | C(C)OC1=C(SC=C1)C(=O)O | C7H8O3S
reactant | diisopropylethylamine | 9 mmol, 1.16 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-[[(3-Ethoxy-2-thienyl)carbonyl]amino]cyclohexanecarboxylic acid | 656 mg, 73% | C(C)OC1=C(SC=C1)C(=O)NC1(CCCCC1)C(=O)O | C14H19NO4S
